### PR TITLE
[Merged by Bors] - feat: port/CategoryTheory.Limits.HasLimits

### PR DESCRIPTION
**Pull request by mattrobball**
---

- [x] depends on: #2312 
- [x] depends on: #2354 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#2312
* leanprover-community/mathlib4#2354
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#2312~~
* ~~leanprover-community/mathlib4#2354~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 1]
```diff
@@ -0,0 +1,1355 @@
...
+
+-- Porting note: added because instance not automatically synthesized
+instance [h : HasLimit (D ⋙ E ⋙ F)] : HasLimit ((D ⋙ E) ⋙ F) where 
+  exists_limit := by 
+    rw [Functor.assoc]
+    exact h.exists_limit
+instance [h : HasLimit ((D ⋙ E) ⋙ F)] : HasLimit (D ⋙ E ⋙ F) where 
+  exists_limit := by 
+    rw [← Functor.assoc]
+    exact h.exists_limit
```
Comment (ChrisHughes24) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:439]: I think a Type class inference expert needs to look at this. @gebner is this going to cause problems? It looks like there's some loop going on but maybe it's okay.

Comment (adamtopaz) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:439]: What goes wrong if you remove these two instances?

Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:439]: Everything below it goes red because it cannot synthesize them. Since Lean cannot currently go from (f \circ g) \circ h to f \circ (g \circ h), inside `HasLimit` I don't think it can go back. But probably the safest thing is to add them to the declarations manually.

Comment (adamtopaz) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:439]: BTW, since associativity of functor composition is true by definition, these instances could be replaced with:
```lean
instance [h : HasLimit (D ⋙ E ⋙ F)] : HasLimit ((D ⋙ E) ⋙ F) := h
instance [h : HasLimit ((D ⋙ E) ⋙ F)] : HasLimit (D ⋙ E ⋙ F) := h
```

But we should figure out whether these instances will cause issues as Chris suggested.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 2]
```diff
@@ -0,0 +1,1355 @@
...
+
+end
+
+variable {G : J ⥤ C} (α : F ⟶ G)
+
+-- We generate this manually since `simps` gives it a weird name.
+@[simp]
+theorem limMap_eq_limMap : lim.map α = limMap α :=
+  rfl
+#align category_theory.limits.lim_map_eq_lim_map CategoryTheory.Limits.limMap_eq_limMap
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:552]: I think we can now just use `@[simps]` and get rid og `limMap_eq_limMap`.

It seems that we don't have an analogue of `limMap_eq_limMap` for colimits, and that `colim` is tagged with `[simps obj]` only, which is strange IMO.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 3]
```diff
@@ -0,0 +1,1355 @@
...
+
+-- see Note [lower instance priority]
+instance (priority := 100) hasLimitsOfShapeOfHasLimits {J : Type u₁} [Category.{v₁} J]
+    [HasLimitsOfSize.{v₁, u₁} C] : HasLimitsOfShape J C :=
+  HasLimitsOfSize.has_limits_of_shape J
+#align category_theory.limits.has_limits_of_shape_of_has_limits CategoryTheory.Limits.hasLimitsOfShapeOfHasLimits
+
+-- Interface to the `HasLimit` class.
+/-- An arbitrary choice of limit cone for a functor. -/
+def Limit.cone (F : J ⥤ C) [HasLimit F] : Cone F :=
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:146]: Is the naming correct here? `Limit.cone` vs `limit.lift` and friends.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 1 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:439]: > BTW, since associativity of functor composition is true by definition, these instances could be replaced with:
> 
> ```lean
> instance [h : HasLimit (D ⋙ E ⋙ F)] : HasLimit ((D ⋙ E) ⋙ F) := h
> instance [h : HasLimit ((D ⋙ E) ⋙ F)] : HasLimit (D ⋙ E ⋙ F) := h
> ```
> 
> But we should figure out whether these instances will cause issues as Chris suggested.

This works. But this is the best I can do to 
```lean
theorem limit.pre_pre [h : HasLimit (D ⋙  E ⋙  F)] : haveI : HasLimit ((D ⋙  E) ⋙  F) := h;
    limit.pre F E ≫ limit.pre (E ⋙ F) D = limit.pre F (D ⋙ E) := by
  haveI : HasLimit ((D ⋙  E) ⋙  F) := h
  ext j; erw [assoc, limit.pre_π, limit.pre_π, limit.pre_π]; rfl
```

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 4]
```diff
@@ -0,0 +1,1355 @@
...
+    apply NatTrans.ext
+    aesop_cat
+  · intro X Y f
+    dsimp [yoneda,uliftFunctor]
+    ext Z
+    dsimp 
+    funext g 
+    dsimp [const,cones]
+    apply NatTrans.ext
+    aesop_cat
```
Comment (adamtopaz) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:599]:
```suggestion
def limYoneda :
    lim ⋙ yoneda ⋙ (whiskeringRight _ _ _).obj uliftFunctor.{u₁} ≅ CategoryTheory.cones J C :=
  NatIso.ofComponents (fun F => NatIso.ofComponents (fun W => limit.homIso F (unop W))
    <| by intros ; funext ; aesop_cat) <| by intros ; ext ; funext ; aesop_cat
```

If we add `funext` to the `aesop_cat` rule set, then I think `aesop_cat` would be able to handle both naturality goals.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 1 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: I've made these changes and removed the global instances.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:146]: No I don't think so

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 2 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:558]: File seems fine if I do this.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 3 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Made the change

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Both are golfed

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 1 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Regardless of looping, I've concluded this is a dumb thing to do.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 5]
```diff
@@ -1047,125 +1038,112 @@ variable (F) [HasColimit F] (G : C ⥤ D) [HasColimit (F ⋙ G)]
...
+#align category_theory.limits.has_colimit_of_equivalence_comp CategoryTheory.Limits.hasColimit_of_equivalence_comp
 
 section ColimFunctor
 
 variable [HasColimitsOfShape J C]
 
 section
 
-attribute [local simp] colim_map
+-- attribute [local simp] colimMap -- Porting note
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:1107]: Porting note what? :stuck_out_tongue_winking_eye:

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 6]
```diff
@@ -1047,125 +1038,112 @@ variable (F) [HasColimit F] (G : C ⥤ D) [HasColimit (F ⋙ G)]
...
 
 end
 
-variable {F} {G : J ⥤ C} (α : F ⟶ G)
+variable {G : J ⥤ C} (α : F ⟶ G)
 
-@[simp, reassoc.1]
-theorem colimit.ι_map (j : J) : colimit.ι F j ≫ colim.map α = α.app j ≫ colimit.ι G j := by
-  apply is_colimit.fac
+-- @[reassoc (attr := simp)] Porting note: now simp can prove these
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:1122]: I think we should keep the `reassoc`.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 7]
```diff
@@ -1047,125 +1038,112 @@ variable (F) [HasColimit F] (G : C ⥤ D) [HasColimit (F ⋙ G)]
...
+theorem colimit.ι_map (j : J) : colimit.ι F j ≫ colim.map α = α.app j ≫ colimit.ι G j := by simp
 #align category_theory.limits.colimit.ι_map CategoryTheory.Limits.colimit.ι_map
 
-@[simp]
+@[simp] -- Porting note: adjusted this with full simps on colim
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:1126]: What does this note mean?

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 8]
```diff
@@ -1292,13 +1266,14 @@ def IsColimit.op {t : Cocone F} (P : IsColimit t) : IsLimit t.op
...
+/-- If `t : Cone F.op` is a limit cone, then `t.unop : Cocone F` is a colimit cocone.
 -/
-def IsLimit.unop {t : Cone F.op} (P : IsLimit t) : IsColimit t.unop
-    where
+def IsLimit.unop {t : Cone F.op} (P : IsLimit t) : IsColimit t.unop where
   desc s := (P.lift s.op).unop
-  fac' s j := congr_arg Quiver.Hom.unop (P.fac s.op (op j))
-  uniq' s m w := by
+  fac s j := congrArg Quiver.Hom.unop (P.fac s.op (Opposite.op j))
+  -- Porting note: things `op j` is `IsLimit.op j`
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:1274]:
```suggestion
  -- Porting note: thinks `op j` is `IsLimit.op j`
```
I thing you mean :arrow_up: ??

File: Mathlib/CategoryTheory/Limits/HasLimits.lean [hunk 9]
```diff
@@ -1307,13 +1282,14 @@ def IsLimit.unop {t : Cone F.op} (P : IsLimit t) : IsColimit t.unop
...
+/-- If `t : Cocone F.op` is a colimit cocone, then `t.unop : Cone F.` is a limit cone.
 -/
-def IsColimit.unop {t : Cocone F.op} (P : IsColimit t) : IsLimit t.unop
-    where
+def IsColimit.unop {t : Cocone F.op} (P : IsColimit t) : IsLimit t.unop where
   lift s := (P.desc s.op).unop
-  fac' s j := congr_arg Quiver.Hom.unop (P.fac s.op (op j))
-  uniq' s m w := by
+  fac s j := congrArg Quiver.Hom.unop (P.fac s.op (Opposite.op j))
+  -- Porting note: things `op j` is `IsLimit.op j`
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Limits/HasLimits.lean:1290]:
```suggestion
  -- Porting note: thinks `op j` is `IsLimit.op j`
```
Idem

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Added more detail. It doesn't seem to necessary anymore and including it makes `aesop_cat` upset.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 6 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean:1122]: You are right. Added it back

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Per the discussion above with @adamtopaz, we are trying to move from `@[simps obj]` to `@[simps]` on `colim`. This proof had to be adjusted. Clarified the language

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 8 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Yes.

File: Mathlib/CategoryTheory/Limits/HasLimits.lean (hunk 9 above)
Comment (mattrobball) [reply Mathlib/CategoryTheory/Limits/HasLimits.lean]: Idem

**Review by jcommelin — COMMENTED** [review]
bors d+

**Comment by mattrobball** [comment]
bors merge
